US06809110B2
In analogy to the procedure described in example 10 d], (2S)-2-ethoxy-3-{2-methyl-4-[2-(4-trifluoromethyl-phenyl)-thiazol-4-ylmethoxy]-phenyl}-propionic acid methyl ester was treated with LiOH to obtain (2S)-2-ethoxy-3-{2-methyl-4-[2-(4-trifluoromethyl-phenyl)-thiazol-4-ylmethoxy]-phenyl}-propionic acid as colorless solid.

reactant | (2S)-2-ethoxy-3-{2-methyl-4-[2-(4-trifluoromethyl-phenyl)-thiazol-4-ylmethoxy]-phenyl}-propionic acid methyl ester | COC([C@H](CC1=C(C=C(C=C1)OCC=1N=C(SC1)C1=CC=C(C=C1)C(F)(F)F)C)OCC)=O | C24H24F3NO4S
reactant | LiOH | [Li+].[OH-]
product | (2S)-2-ethoxy-3-{2-methyl-4-[2-(4-trifluoromethyl-phenyl)-thiazol-4-ylmethoxy]-phenyl}-propionic acid | C(C)O[C@H](C(=O)O)CC1=C(C=C(C=C1)OCC=1N=C(SC1)C1=CC=C(C=C1)C(F)(F)F)C | C23H22F3NO4S
